US04661510
2-(Benzoylamino)-3-(4-benzoyloxyphenyl)propionic acid
Tyrosine (5.0 g) was dissolved in 30 ml of 2N sodium hydroxide at 0° C. To this solution, 7 ml of benzoyl chloride was added portion-wise. The pH of the solution was constantly monitored and kept at approximately 10. After approximately 4 hours with constant pH the solution was acidified to pH 3.0 with concentrated hydrochloric acid, yielding a precipitate which was left at 0° C. for 2 hours. The precipitate was filtered, boiled over carbon tetrachloride and recrystallized from ethanol-water (1:1).

reactant | Tyrosine | 5.0 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | benzoyl chloride | 7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | 2-(Benzoylamino)-3-(4-benzoyloxyphenyl)propionic acid | C(C1=CC=CC=C1)(=O)NC(C(=O)O)CC1=CC=C(C=C1)OC(C1=CC=CC=C1)=O | C23H19NO5
